US07932272B2
2-(3-Bromo-phenyl)-[1.3]dioxolane
3-Bromobenzaldehyde (4.00 g, 21.6 mmol), ethane-1,2-diol (6.03 mL, 108 mmol) and toluene-4-sulfonic acid monohydrate (186 mg, 1.08 mmol) were dissolved in toluene (80 mL), and the solution was stirred under reflux for 4 hours. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=20:1), and the title compound (4.79 g, 20.9 mmol, 97%) was obtained as a colorless oil.

reactant | 3-Bromobenzaldehyde | 21.6 mmol, 4.00 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ethane-1,2-diol | 108 mmol, 6.03 mL | C(CO)O | C2H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
catalyst | toluene-4-sulfonic acid monohydrate | 1.08 mmol, 186 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Bromo-phenyl)-[1.3]dioxolane | 20.9 mmol, 4.79 g, 97% | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
